US07235574B2
v) 4-(4-1H-[1,2,3]triazol-4-yl-butyl)-phenol
A mixture of 500 mg 4-(4-(4-methoxy-phenyl)-butyl)-1H-[1,2,3]triazole and 1.5 ml 48% hydrobromic acid was stirred at 80° C. for 9 h. After adjustment to pH=6 by addition of conc. sodium hydroxide solution, the aqueous layer was discarded and the remaining sticky residue purified by HPLC-MS(RP18, methanol/water 7:3, pH=2.3). Yield 170 mg (36%).

reactant | 4-(4-(4-methoxy-phenyl)-butyl)-1H-[1,2,3]triazole | 500 mg | COC1=CC=C(C=C1)CCCCC=1N=NNC1 | C13H17N3O
reactant | hydrobromic acid | 1.5 ml | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-(4-1H-[1,2,3]triazol-4-yl-butyl)-phenol | N1N=NC(=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
